US04704459
In 1 ml of dioxane were dissolved 80 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate, 46 mg of acetic anhydride and 50 mg of ethyl ortho-formate, and the resulting solution was subjected to reaction under reflux for 7 hours, after which the solvent was removed by distillation under reduced pressure. The residue thus obtained was dissolved 10 ml of methanol and 5 ml of water, and the pH thereof was adjusted to 8.5 with a 10% by weight aqueous sodium carbonate solution. The resulting mixture was subjected to reaction at room temperature for 30 minutes, and the pH of the reaction mixture was adjusted to 2.0 with 2N hydrochloric acid, after which 20 ml of ethyl acetate and 10 ml of water were added thereto. The organic layer was separated, washed successively with 15 ml of water and 15 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained was added 1 ml of diethyl ether, after which the crystals thus deposited were collected by filtration to obtain 43 mg (yield 52.3%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate. The physical properties of this compound were identical with those of the compound obtained in Example 40.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate | 80 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)O)F | C16H13F3N2O4
reactant | acetic anhydride | 46 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl ortho-formate | 50 mg | C(OCC)([O-])[O-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate | 43 mg, yield 52.3% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)OCC | C17H11F3N2O4
